US08536183B2
4-({(3S)-4-[(6-Chloro-2-methyl-3-pyridinyl)carbonyl]-3-methyl-1-piperazinyl}sulfonyl)-3-methylbenzonitrile
HATU (425 mg, 1.12 mmol) was added to a solution of 6-chloro-2-methyl-3-pyridinecarboxylic acid (commercially available, e.g. from Anichem, or may be prepared according to known methods) (160 mg, 0.93 mmol) in DMF (3 ml) and the mixture was treated with DIPEA (0.407 ml, 2.33 mmol). This mixture was stirred for ca. 10 min at ambient temperature. 3-Methyl-4-{[(3S)-3-methyl-1-piperazinyl]sulfonyl}benzonitrile (may be prepared as described in Description 11) (313 mg, 1.12 mmol) was added as a solution in DMF (2 ml) and stirring was continued for ca. 1 hour. The reaction mixture was partitioned between DCM and sat aq. NaHCO3 solution (20 ml each). The layers were separated and the aqueous was washed with further DCM (2×20 ml). The combined organic layers were dried (hydrophobic frit) and concentrated to leave a dark brown gum. Purification by silica chromatography (Biotage SP4, 25S cartridge), eluting with 12-100% ethyl acetate in isohexane, gave the title compound as a pale cream foam (376 mg).

reactant | HATU | 1.12 mmol, 425 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-chloro-2-methyl-3-pyridinecarboxylic acid | ClC1=CC=C(C(=N1)C)C(=O)O | C7H6ClNO2
reactant | DIPEA | 2.33 mmol, 0.407 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-Methyl-4-{[(3S)-3-methyl-1-piperazinyl]sulfonyl}benzonitrile | 1.12 mmol, 313 mg | CC=1C=C(C#N)C=CC1S(=O)(=O)N1C[C@@H](NCC1)C | C13H17N3O2S
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-({(3S)-4-[(6-Chloro-2-methyl-3-pyridinyl)carbonyl]-3-methyl-1-piperazinyl}sulfonyl)-3-methylbenzonitrile | 376 mg | ClC1=CC=C(C(=N1)C)C(=O)N1[C@H](CN(CC1)S(=O)(=O)C1=C(C=C(C#N)C=C1)C)C | C20H21ClN4O3S
